US05424423
7-benzyl-octahydro-5H,9bH-2a,4a,7,9a-tetraazacycloocta[cd]pentalene
A solution of 1-benzyl-1,4,7,10-tetraazacyclododecane (4 g; 0.015 mol) and dimethylformamide diethylacetal (6.88 g; 0.0467 mol) in benzene (40 ml) is heated at 80 C. and the azeotropic mixture ethanol-benzene is distilled away. When the conversion is ended, the solvent is evaporated under reduced pressure and the final product is obtained as a yellow oil (4.0 g). Yield 96%

reactant | 1-benzyl-1,4,7,10-tetraazacyclododecane | 0.015 mol, 4 g | C(C1=CC=CC=C1)N1CCNCCNCCNCC1 | C15H26N4
reactant | dimethylformamide diethylacetal | 0.0467 mol, 6.88 g | C(C)OC(N(C)C)OCC | C7H17NO2
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | 7-benzyl-octahydro-5H,9bH-2a,4a,7,9a-tetraazacycloocta[cd]pentalene | Yield 96% | C(C1=CC=CC=C1)N1CCN2C3N(CCN3CC2)CC1 | C16H24N4
